US05859007
2-[3-(1H-Indazol-3-ylmethyl)-2,4-dioxo-5-thiophen-2-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
To 280 mg (0.40 mmol) of crude 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-thiophen-2-yl-2,3,4,5-tetrahydro-benzo [b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide, prepared as in Intermediate 60, is added 10 mL of 4N HCl in dioxane at RT. The resulting solution is stirred 3 h and 100 mL of Et2O is added. The Et2O is decanted away from the gum. The gum is washed with Et2O and purified by RP-HPLC (30-60% acetonitrile/H2O over 30 min) to afford 23.7 mg of the title compound: 1H NMR (CDCl3, 300 MHz) δ7.83 (d, 1H, J=8.0), 7.45-7.06 (m, 11H), 6.96-6.79 (m, 4H), 4.97 (m, 1H), 4.31 (d, 1H, J=16.6), 4.20 (m, 1H), 4.08 (d, 1H, J=16.6), 3.81 (s, 3H), 3.73 (m, 2H), 1.05 (d, 3H, J=6.8), 1.02 (d, 3H, J=6.8); low resolution MS (FAB) m/e 594 (MH+); RP-HPLC Tr =22.0 min (30-60% acetonitrile/ H2O).

reactant | 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-thiophen-2-yl-2,3,4,5-tetrahydro-benzo [b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 0.40 mmol, 280 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2SC=CC2)=O | C38H39N5O6S
reactant | HCl | 4N, 10 mL | Cl | ClH
reactant | Et2O | 100 mL | CCOCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[3-(1H-Indazol-3-ylmethyl)-2,4-dioxo-5-thiophen-2-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 23.7 mg | N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2SC=CC2)=O | C33H31N5O4S
